US06620811B2
N-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-2-(pyridin-2-ylmethoxy)-isonicotinamide
From 2-chloro-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide with sodium hydride and 2-hydroxymethylpyridine in dioxane. ES-MS m/e (%): 500 (M+Na+, 23), 478 (M+H+, 100).

reactant | 2-chloro-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide | ClC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1 | C18H17ClN4O3S
reactant | sodium hydride | [H-].[Na+]
reactant | 2-hydroxymethylpyridine | OCC1=NC=CC=C1 | C6H7NO
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-2-(pyridin-2-ylmethoxy)-isonicotinamide | COC1=CC=C(C2=C1N=C(S2)NC(C2=CC(=NC=C2)OCC2=NC=CC=C2)=O)N2CCOCC2 | C24H23N5O4S
